US08859773B2
Step 3: 1-(methylamino)isoquinoline-6-carboxylic acid
To a suspension of ethyl 1-(methylamino)isoquinoline-6-carboxylate (150 mg, 0.65 mmol) in ethanol (2.5 mL) was added 1 N aqueous potassium hydroxide (6.5 mL, 6.5 mmol). The reaction was heated to 65° C. for 1.5 hours. The reaction was cooled to room temperature and concentrated to dryness. The solid was dissolved in water and the solution was acidified with 1 N HCl. The mixture was concentrated. The solid was dissolved in water (50 mL) and extracted twice with 2-butanol (50 mL). The combined organics were washed with brine (20 mL), dried over magnesium sulfate, filtered, and concentrated to give the title compound (95 mg, 72%) as a white solid. +ESI (M+H) 203.2; 1H NMR (400 MHz, DMSO-d6, δ): 13.07 (br. s., 1H), 10.25 (d, J=4.9 Hz, 1H), 8.74 (d, J=8.8 Hz, 1H), 8.51 (s, 1H), 8.15 (dd, J=8.6, 1.8 Hz, 1H), 7.67 (d, J=6.8 Hz, 1H), 7.35 (d, J=7.0 Hz, 1H), 3.15 (d, J=4.7 Hz, 3H).

reactant | ethyl 1-(methylamino)isoquinoline-6-carboxylate | 0.65 mmol, 150 mg | CNC1=NC=CC2=CC(=CC=C12)C(=O)OCC | C13H14N2O2
reactant | potassium hydroxide | 6.5 mmol, 1 N, 6.5 mL | [OH-].[K+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 1-(methylamino)isoquinoline-6-carboxylic acid | 95 mg, 72% | CNC1=NC=CC2=CC(=CC=C12)C(=O)O | C11H10N2O2
